US06583141B1
) Hydroxylamine (0.0449 mol) was added to a mixture of 4-(2-phenyl-1,3-dioxin-2-yl)benzonitrile (0.022 mol) in ethanol (88 ml). Then, N,N-diethylethanamine (0.0449 mol) was added dropwise and the resulting reaction mixture was stirred and refluxed for 3.5 hours. The solvent was evaporated. The residue was washed with water and this mixture was extracted with EtOAc. The separated organic layer was dried (Na2SO4), filtered and the solvent was evaporated, yielding 6.38 g of N′-hydroxy-4-(2-phenyl-1,3-dioxolan-2-yl)benzenecarboimidamide (interm. 10)

reactant | Hydroxylamine | 0.0449 mol | NO | H3NO
reactant | 4-(2-phenyl-1,3-dioxin-2-yl)benzonitrile | 0.022 mol | C1(=CC=CC=C1)C1(OC=CCO1)C1=CC=C(C#N)C=C1 | C17H13NO2
reactant | N,N-diethylethanamine | 0.0449 mol | C(C)N(CC)CC | C6H15N
solvent | ethanol | 88 ml | C(C)O | C2H6O
product | N′-hydroxy-4-(2-phenyl-1,3-dioxolan-2-yl)benzenecarboimidamide | 6.38 g | ON=C(N)C1=CC=C(C=C1)C1(OCCO1)C1=CC=CC=C1 | C16H16N2O3
